US08119676B2
To solution of (4-cyano-2-nitrophenyl)-carbamic acid tert-butyl ester (3.6 g, 13.8 mmol) in methanol (18 mL), ethyl acetate (28 mL) and triethylamine (1.9 mL, 13.6 mmol) was added 10% Pd on carbon (0.73 g, 0.69 mmol). The reaction mixture was hydrogenated under 1 atm H2 for 24 hours, filtered through Celite and concentrated in vacuo. The residue was purified by flash chromatography in silica gel using 20% ethyl acetate in n-heptane as eluent to afford (2-amino-4-cyanophenyl)-carbamic acid tert-butyl ester (2.6 g, 82%) as a light yellow solid.

reactant | (4-cyano-2-nitrophenyl)-carbamic acid tert-butyl ester | 13.8 mmol, 3.6 g | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#N)[N+](=O)[O-])=O | C12H13N3O4
reactant | triethylamine | 13.6 mmol, 1.9 mL | C(C)N(CC)CC | C6H15N
solvent | methanol | 18 mL | CO | CH4O
solvent | ethyl acetate | 28 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd on carbon | 0.69 mmol, 0.73 g | [Pd] | Pd
product | (2-amino-4-cyanophenyl)-carbamic acid tert-butyl ester | 2.6 g, 82% | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#N)N)=O | C12H15N3O2
